US04526723
Preparation of 2-(4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione
This dione was prepared by acid cyclization of ethyl 6-(4'methylphenyl)-6-cyano-5-keto-3,3-dimethylhexanoate. Preparation of the hexanoate is described in Part A and of the dione in Part B.

reactant | ethyl 6-(4'methylphenyl)-6-cyano-5-keto-3,3-dimethylhexanoate | CC1=CC=C(C=C1)C(C(CC(CC(=O)OCC)(C)C)=O)C#N | C18H23NO3
reactant | hexanoate | C(CCCCC)(=O)[O-]
product | 2-(4'-methylphenyl)-5,5-dimethyl-1,3-cyclohexanedione | CC1=CC=C(C=C1)C1C(CC(CC1=O)(C)C)=O | C15H18O2
